US09145441B2
Compound 120a. (S)-1-((S)-2-tert-Butoxycarbonylamino-3-phenyl-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
To a solution of (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester 3-(2,2,2-trichloro-ethyl)ester (1.0 g, 2.2 mmol) in anhydrous dichloromethane (7 mL) at room temperature and under an atmosphere of nitrogen was added trifluoroacetic acid (6.7 mL, 86.6 mmol). The solution was warmed to room temperature and stirred for 16 h. The reaction was concentrated in vacuo and the residue co-evaporated from toluene (3×). The resulting brown viscous oil was dissolved in anhydrous acetonitrile (2 mL) and added to a solution of Boc-Phe-Ala-OH (574 mg, 2.2 mmol), N,N-diisopropylethylamine (1.5 mL, 8.7 mmol) and 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (821 mg, 2.5 mmol) in anhydrous acetonitrile (10 mL) that had been previously stirred at 0° C. for 20 minutes. The reaction was warmed to room temperature and stirred for 16 h. The reaction was cooled to 0° C. diluted with ethyl acetate and quenched with hydrochloric acid (1 M). The organic layer was separated and washed with a saturated aqueous solution of sodium bicarbonate and brine. The organic layer was then dried through a hydrophobic frit and concentrated in vacuo. The residue was purified by silica gel chromatography using iso-hexanes/ethyl acetate 1:1 to give the title compound (1.0 g, 91%) as a white foam. 1H NMR (300 MHz, CDCl3) δ 1.43 (s, 9H), 1.45-1.51 (m, 1H), 1.72-1.95 (m, 2H), 2.14-2.33 (m, 1H), 2.61-2.76 (m, 1H), 2.84-3.10 (m, 3.58 (d, J=11.6 Hz, 1H), 4.34-4.48 (m, 1H), 4.76, 4.76 (ABq, J=12.4 Hz, 2H), 5.18-5.31 (m, 1H), 5.46-5.61 (m, 2H), 7.17-7.36 (m, 5H). LCMS (m/z) 508.0 [M+H], Tr=3.18 min.

reactant | (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester 3-(2,2,2-trichloro-ethyl)ester | 2.2 mmol, 1.0 g | ClC(COC(=O)[C@H]1N(N(CCC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)(Cl)Cl | C17H27Cl3N2O6
reactant | trifluoroacetic acid | 86.6 mmol, 6.7 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Boc-Phe-Ala-OH | 2.2 mmol, 574 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C17H24N2O5
reactant | N,N-diisopropylethylamine | 8.7 mmol, 1.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 2.5 mmol, 821 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-((S)-2-tert-Butoxycarbonylamino-3-phenyl-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 1.0 g, 91% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)(Cl)Cl | C21H28Cl3N3O5
